US04639460
Preparation of 2-[2,4-dichlorophenyl]-5-methylthiazolidin-4-one
In a 500 ml 3-necked flask equipped with a Dean & Stark trap and reflux condenser, 30 g (0.17 mole) 2,4-dichlorobenzaldehyde, 18.2 g (0.17 mole) 95% thiolactic acid and 10.8 g (0.17 mole) ammonium formate in 150 ml toluene were placed. The reaction mixture was heated to reflux for several hours; 17 ml water collected. The mixture was at first clear in color and then turned yellow. The reaction mixture was allowed to sit overnight during which yellow solids precipitated. The mixture was filtered. The solids were washed with ether and then air dried to give 38 g of the above-identified product as a white solid.

reactant | 2,4-dichlorobenzaldehyde | 0.17 mole, 30 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | thiolactic acid | 0.17 mole, 18.2 g | C(C(O)C)(=S)O | C3H6O2S
reactant | ammonium formate | 0.17 mole, 10.8 g | C(=O)[O-].[NH4+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2,4-dichlorophenyl]-5-methylthiazolidin-4-one | 38 g | ClC1=C(C=CC(=C1)Cl)C1SC(C(N1)=O)C | C10H9Cl2NOS
